US07935715B2
To a solution of 15.3 g (47 mmol) of 2-methyl-2-(4-trifluoromethyl-benzenesulfonyl)-propionic acid ethyl ester in THF/water (4/1, 160 mL) were added 3.95 g (94 mmol) of lithium hydroxide monohydrate. The reaction was stirred at room temperature for 18 h. The reaction was further diluted with water (60 mL) and then washed with DCM (2×40 mL). The basic aqueous layer was cooled in an ice bath and then acidified with 1N aqueous HCl solution to pH 2. The acidic aqueous layer was extracted with DCM (3×60 mL). The combined organic extracts were washed with brine, dried over Na2SO4 and filtered. Concentration of the filtrate under reduced pressure afforded 11.6 g of 2-methyl-2-(4-trifluoromethyl -benzenesulfonyl)-propionic acid.

reactant | 2-methyl-2-(4-trifluoromethyl-benzenesulfonyl)-propionic acid ethyl ester | 47 mmol, 15.3 g | C(C)OC(C(C)(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)=O | C13H15F3O4S
reactant | lithium hydroxide monohydrate | 94 mmol, 3.95 g | O.[OH-].[Li+]
solvent | THF water | 160 mL | C1CCOC1.O
solvent | water | 60 mL | O | H2O
product | 2-methyl-2-(4-trifluoromethyl -benzenesulfonyl)-propionic acid | 11.6 g | CC(C(=O)O)(C)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C11H11F3O4S
